US05252538
Preparation of diethyl 6-methyl-5-nitro-2,3-pyridinedicarboxylate
Diethyl ethoxymethyleneoxalacetate (150.4 g, 0.616 mol, 1 eq) is dissolved in 300 mL absolute ethanol under a nitrogen atmosphere and the mixture is cooled to -10° C. in an ice/acetone bath. Unpurified 1-nitro-2-propanone (prepared by the method of D. Baker and S. Putt, Synthesis, 1978, 478-9, assumed to be 63.448 g, 0.616 mol) dissolved in 100 mL absolute ethanol is then added to the stirred solution. Sodium acetate (101.06 g, 1.232 mol) is then added in portions so that the temperature of the reaction remains below 10° C., followed by the addition of ammonium acetate (94.6 g, 1.232 g). The reaction mixture is allowed to warm to room temperature and is then stirred for 16 hours. The mixture is filtered through two pads of silica gel which are then eluted with methylene chloride. The filtrate is concentrated in vacuo to a thick dark oil which is chromatographed using hexanes as eluant, yielding the product in an 18.2% yield (31.4 g), having a melting point 90°-91.5° C.

reactant | Diethyl ethoxymethyleneoxalacetate | 0.616 mol, 150.4 g, 1 eq | C(C)OC=C(C(=O)OCC)C(=O)C(=O)OCC | C11H16O6
reactant | 1-nitro-2-propanone | [N+](=O)([O-])CC(C)=O | C3H5NO3
reactant | Sodium acetate | 1.232 mol, 101.06 g | C(C)(=O)[O-].[Na+]
reactant | ammonium acetate | 94.6 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | diethyl 6-methyl-5-nitro-2,3-pyridinedicarboxylate | 18.2% yield | CC1=C(C=C(C(=N1)C(=O)OCC)C(=O)OCC)[N+](=O)[O-] | C12H14N2O6
